US06232290B1
To a solution of 1-hydroxybenzotriazole (244 mg) and 4-[5-(4-pentyloxyphenyl)isoxazol-3-yl]benzoic acid (528 mg) in dichloromethane (10 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (WSCD•HCl) (430 mg) and the mixture was stirred for 4.5 hours at ambient temperature. The reaction mixture was added to water. The organic layer was taken and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[5-(4-pentyloxyphenyl)isooxazol-3-yl]benzoic acid benzotriazol-1-yl ester (640 mg).

reactant | 1-hydroxybenzotriazole | 244 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-[5-(4-pentyloxyphenyl)isoxazol-3-yl]benzoic acid | 528 mg | C(CCCC)OC1=CC=C(C=C1)C1=CC(=NO1)C1=CC=C(C(=O)O)C=C1 | C21H21NO4
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 430 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[5-(4-pentyloxyphenyl)isooxazol-3-yl]benzoic acid benzotriazol-1-yl ester | 640 mg | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)C2=NOC(=C2)C2=CC=C(C=C2)OCCCCC)=O | C27H24N4O4
